US07829585B2
(5-Bromo-benzofuran-2-yl)-methanol
To a tetrahydrofuran (20 mL) solution of lithium aluminum hydride (706 mg, 18.6 mmol) was added aluminum chloride (2.98 g, 22.3 mmol), which was stirred until the aluminum chloride dissolved in tetrahydrofuran. Then, to the reaction mixture was added 5-bromo-benzofuran-2-carboxylic acid ethyl ester (1.00 g, 3.72 mmol) described in Production Example 56-1-1 at 0° C. followed by stirring at 0° C. for 20 minutes. To the reaction solution was added aqueous ammonium followed by filtering through Celite. The filtrate was concentrated under a reduced pressure and the residue was purified by silica gel column chromatography (heptane:ethyl acetate=2:1) to obtain the title compound (780 mg, 92%) as a white solid.

reactant | lithium aluminum hydride | 18.6 mmol, 706 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | aluminum chloride | 22.3 mmol, 2.98 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 5-bromo-benzofuran-2-carboxylic acid ethyl ester | 3.72 mmol, 1.00 g | C(C)OC(=O)C=1OC2=C(C1)C=C(C=C2)Br | C11H9BrO3
reactant | ammonium | [NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (5-Bromo-benzofuran-2-yl)-methanol | 780 mg, 92% | BrC=1C=CC2=C(C=C(O2)CO)C1 | C9H7BrO2
